US06909007B1
A solution of 4-bromobutyric acid (5.1 g, 30.6 mmoles) and 1,1′-carbonyldiimidazol (5.61 g, 34.6 mmoles)) in chloroform (50 ml) is left at room temperature under stirring for 1 hour. To the reaction mixture N-acetyl cysteine (5 g, 30.6 mmoles) dissolved in N,N-dimethylformamide (5 ml) and sodium ethylate (50 mg) is added under stirring. After 24 hours the solution 2 is washed with HCl 1% and brine, the organic phase is anhydrified with sodium sulphate and evaporated at reduced pressure. The obtained crude product is purified by chromatography on silica gel column, eluting with ethyl acetate/chloroform 7/3. N-acetyl-S-(4-bromobutyroyl) cysteine is obtained.

reactant | 4-bromobutyric acid | 30.6 mmoles, 5.1 g | BrCCCC(=O)O | C4H7BrO2
reactant | 1,1′-carbonyldiimidazol | 34.6 mmoles, 5.61 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-acetyl cysteine | 30.6 mmoles, 5 g | C(C)(=O)N[C@@H](CS)C(=O)O | C5H9NO3S
reactant | sodium ethylate | 50 mg | CC[O-].[Na+]
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-acetyl-S-(4-bromobutyroyl) cysteine | C(C)(=O)N[C@@H](CSC(CCCBr)=O)C(=O)O | C9H14BrNO4S
